US08217032B2
5-[4-(2-Azepan-1-yl-ethoxy)-phenoxy]-6-(3-fluoro-phenyl)-naphthalen-2-ol hydrochloride
Prepare this compound following the procedure to make 6-(3-fluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-ol hydrochloride above starting with 1-(2-{-4-[2-(3-fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-azepane hydrochloride, to get a 52% yield of the free of the title compound after radial chromatography. Form the hydrochloride salt by adding 0.8 mL of a 1 M HCl in Et2O solution: mass spectrum (ion spray) m/z=472 (M−Cl).

reactant | 6-(3-fluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-ol hydrochloride | Cl.FC=1C=C(C=CC1)C=1C(=C2C=CC(=CC2=CC1)O)OC1=CC=C(C=C1)OCCN1CCCCC1
reactant | 1-(2-{-4-[2-(3-fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-azepane hydrochloride | Cl.FC=1C=C(C=CC1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCCC2)C=C1
product | 5-[4-(2-Azepan-1-yl-ethoxy)-phenoxy]-6-(3-fluoro-phenyl)-naphthalen-2-ol hydrochloride | 52% yield | Cl.N1(CCCCCC1)CCOC1=CC=C(OC2=C3C=CC(=CC3=CC=C2C2=CC(=CC=C2)F)O)C=C1 | InChI=1S/C30H30FNO3.ClH/c31-24-7-5-6-22(20-24)28-14-8-23-21-25(33)9-15-29(23)30(28)35-27-12-10-26(11-13-27)34-19-18-32-16-3-1-2-4-17-32;/h5-15,20-21,33H,1-4,16-19H2;1H
